US03978064
3-Propargylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester
To 1.6 g. of 3-hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester in 15 ml. of benzene is added 275 mg. of proparglyamine, and the resulting solution allowed to stir overnight at room temperture. The reaction mixture is concentrated in vacuo to about 2 g. and is then dissolved in 50 ml. of chloroform. The resulting solution is washed with 50 ml. of a 1N aqueous sodium hydroxide solution and subsequently dried over magnesium sulfate. Removal of the chloroform solvent leaves 1.9 g. of the desired product as a yellow foam.

reactant | 3-hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | OC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C16H19NO6
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-Propargylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | C(C#C)NC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C19H22N2O5
